US07160901B2
a. 4-(4-tert.butoxycarbonyl-piperazinomethyl)-nitrobenzene
A mixture of 10.6 g (57 mmol) of N-tert.butoxycarbonyl-piperazine, 10.8 g (62.7 mmol) of 4-nitrobenzylchloride, 23.8 ml (171 mmol) of triethylamine in 100 ml of dichloromethane is stirred for 12 hours at 70° C. After diluting with water the organic phase is separated off, dried and evaporated down.

reactant | N-tert.butoxycarbonyl-piperazine | 57 mmol, 10.6 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-nitrobenzylchloride | 62.7 mmol, 10.8 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | triethylamine | 171 mmol, 23.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(4-tert.butoxycarbonyl-piperazinomethyl)-nitrobenzene | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O4
